US08426411B2
A 250 mL flask was charged with ethyl 4-oxocyclohexanecarboxylate (5 g, 28.5 mmol, Alfa Aesar) and THF (75 mL). The solution was cooled to about 0° C. and AcOH (2.28 mL, 39.9 mmol) and dibenzylamine (6.18 g, 31.3 mmol) (TCI) were added dropwise, resulting in formation of a thick suspension. Na(OAc)3BH (14.3 g, 64.1 mmol) was added portionwise and the reaction mixture was stirred at ambient temperature for about 72 h. The reaction mixture was cooled to about 10° C. Water (25 mL) was added and the reaction mixture was stirred for about 15 min. Heptanes (50 mL) were added. The layers were separated and the organic layer was washed with 10% aqueous AcOH solution (25 mL) and then with water (10 mL). The organic layer was extracted with 4% HCl solution twice (40 mL and 20 mL). The combined aqueous layer was washed with heptanes (20 mL). To the aqueous layer was slowly added 30% aqueous K2CO3 solution (30 g) to adjust the pH to 10. The aqueous solution was extracted with heptane twice (75 mL and 15 mL). The combined organic layer was washed with water (30 mL). The organic layer was dried over anhydrous Na2SO4 and filtered. The filtrate was concd under reduced pressure to give ethyl 4-(dibenzylamino)cyclohexanecarboxylate (7.2 g, 72%) as an oil which solidified upon standing: LC/MS (Table 1, Method a) Rt=3.18 and 3.23 min; MS m/z: 352 (M+H)+.

reactant | ethyl 4-oxocyclohexanecarboxylate | 28.5 mmol, 5 g | O=C1CCC(CC1)C(=O)OCC | C9H14O3
reactant | AcOH | 39.9 mmol, 2.28 mL | CC(=O)O | C2H4O2
reactant | dibenzylamine | 31.3 mmol, 6.18 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | Na(OAc)3BH | 64.1 mmol, 14.3 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | Water | 25 mL | O | H2O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | ethyl 4-(dibenzylamino)cyclohexanecarboxylate | 7.2 g, 72% | C(C1=CC=CC=C1)N(C1CCC(CC1)C(=O)OCC)CC1=CC=CC=C1 | C23H29NO2
